US08084448B2
I. N-[4-(2-Cyano-3-hydroxyphenoxy)-butyl]-3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionamide
The title compound is prepared using (E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic acid and 2-(4-aminobutoxy)-6-benzyloxybenzonitrile analogous to Example 100 steps C and D: (M−1)−=487. HPLC retention time: 0.82 min. (Method A).

reactant | (E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)/C=C/C(=O)O | C18H16N2O6S
reactant | 2-(4-aminobutoxy)-6-benzyloxybenzonitrile | NCCCCOC1=C(C#N)C(=CC=C1)OCC1=CC=CC=C1 | C18H20N2O2
product | N-[4-(2-Cyano-3-hydroxyphenoxy)-butyl]-3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionamide | C(#N)C1=C(OCCCCNC(CCC2=CC(=C(C=C2)N2S(NC(C2)=O)(=O)=O)O)=O)C=CC=C1O | C22H24N4O7S
